US04393210
Then, 13.7 g of ethyl p-chlorophenyl-(α-ethoxycarbonylaminomethylene)acetate was added to 50 ml of diphenyl ether and the mixture was heated at reflux for 3 hours. After cooling, benzene and petroleum ether were added to the reaction mixture, and the precipitated crystals were filtered and recrystallized from a mixture of dimethylformamide and ethanol to obtain 7 g of 7-chloro-4-ethoxycarbonyl-1(2H)-isoquinolone having a melting point of 243° C. as colorless prisms.

reactant | ethyl p-chlorophenyl-(α-ethoxycarbonylaminomethylene)acetate | 13.7 g | ClC1=CC=C(C=C1)C(C(=O)OCC)=CNC(=O)OCC | C14H16ClNO4
reactant | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-chloro-4-ethoxycarbonyl-1(2H)-isoquinolone | 7 g | ClC1=CC=C2C(=CNC(C2=C1)=O)C(=O)OCC | C12H10ClNO3
